US09169215B2
To a clear solution of 3-methoxy-2-naphthaldehyde (484 mg, 2.6 mmol) and 5-amino-1H-pyrazole-4-carbonitrile (281 mg, 2.6 mmol) in methanol (5 mL) were added cyclopentyl isonitrile (250 mg, 291 μL, 2.6 mmol) followed by perchloric acid (26.1 mg, 23.3 μL, 260 μmol) at RT under nitrogen atmosphere. The resulting dark brown solution was stirred for 15 h at RT by which time LC/MS analysis indicated the presence of the desired peak. There are no solids formed after dilution with diethyl ether. Then, the solvent was removed under vacuum. The brown solid residue was dissolved in minimum methanol and then it was diluted with diethyl ether. The resulting solution was stored in the refrigerator for 15 h, but there were no solids formed. Then, the solvent was removed under vacuum and the brown residue was purified using an ISCO (80 g) column chromatography eluting with 0-50% ethyl acetate in hexanes. The desired fractions were combined and the solvent was removed under vacuum to obtain 416 mg (43% yield) of 3-(cyclopentylamino)-2-(3-methoxynaphthalen-2-yl)-1H-imidazo[1,2-b]pyrazole-7-carbonitrile as an off-white solid. LC/MS calcd. for C22H21N5O (m/e) 371.44, obsd. 372.0 (M+H, ES+).

reactant | 3-methoxy-2-naphthaldehyde | 2.6 mmol, 484 mg | COC=1C(=CC2=CC=CC=C2C1)C=O | C12H10O2
reactant | 5-amino-1H-pyrazole-4-carbonitrile | 2.6 mmol, 281 mg | NC1=C(C=NN1)C#N | C4H4N4
reactant | cyclopentyl isonitrile | 2.6 mmol, 291 μL, 250 mg | C1(CCCC1)[N+]#[C-] | C6H9N
reactant | perchloric acid | 260 μmol, 23.3 μL, 26.1 mg | Cl(=O)(=O)(=O)O | ClHO4
solvent | methanol | 5 mL | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-(cyclopentylamino)-2-(3-methoxynaphthalen-2-yl)-1H-imidazo[1,2-b]pyrazole-7-carbonitrile | 416 mg, 43% yield | C1(CCCC1)NC1=C(NC=2N1N=CC2C#N)C2=CC1=CC=CC=C1C=C2OC | C22H21N5O
